Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Erythromycin Base / Codeine / Levaquin / Oxycodone 
/ gluten / fructose / tramadol / Neurontin / tapentadol / 
Dilaudid
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___ Laparoscopic Revision of ___ Fundoplication/ Repair 
paraesophageal hernia with mesh Upper endoscopy

 
History of Present Illness:
Ms. ___ is a ___ year old female who is s/p laparoscopic 
___
fundoplication in ___ ___ has recently been
reevaluated in our clinic for new gastrointestinal symptoms. She
has had severe abdominal pain since ___ with intermittent
nausea. She also noticed some recurrence of reflux symptoms. She
was restarted on a PPI earlier this month when she was seen 
here.
She has a known slipped Nissen, documented in ___ and ___ on
prior UGI studies. Her symptoms at that time were not very 
severe
from what she can recall.

Since last being seen in our clinic on ___, she underwent an EGD
on ___ that showed a large retained food bolus in the fundus
with narrowing below it, correlating to the ___ wrap and some
evidence of mild antral chemical gastropathy. No evidence of
ulcers or masses. On ___ she had a repeat UGI which has a 
stable
appearance from prior in ___ with a slipped Nissen but 
free
passage of contrast distally.

The patient notes that she was instructed by the GI team to stay
on a clear liquid diet for 3 days, soft foods for 2 days, and
small portions multiple times a day from there. She has followed
this regimen since ___ and has felt that since that time she
must have passed the food bolus because her abdominal pain is
much improved, now only ___ and her reflux symptoms have
resolved. She has still been using reglan and Zofran on and off
for nausea. She continues eating and drinking small frequent
meals. Of note, she has lost 6 pounds since ___ and attributes
that to the change in diet. She is having regular bowel 
movements
although she thinks the frequency is increased from her prior.
She continues on her apixiban for prothrombin gene mutation 
which
was restarted after her EGD with biopsies.

The patient is eager to discuss surgical options in light of 
this
flare in her symptoms and her known slipped Nissen. She is
anxious about having this food get stuck again and is hoping 
that
surgical intervention will help improve things. She is happy 
that
her symptoms have improved but is anxious about them worsening
again and having things be an ongoing issue over time.

To correct a prior note in the medical record, the patient
clarified that her symptoms were persistent and constant with
minimal improvement. At times there would be a brief decrease in
her symptoms after eating but they would return again.
Additionally, she clarified that her father has a history of
throat and prostate cancer but no history of stomach cancer or
other malignancies of the GI tract.

 
Past Medical History:
1. GERD, fairly controlled with fundoplication
2. PE, due to ___ mutation, Rx coumadin and occ Lovenox (about
twice a year).
3. breast bx
4. ankle fx repair
5. gastroparesis
6. uterine mass (benign) removed
7. Neck mass, dxed as thyroglossal cyst, resolved
right rotator cuff repair ___. ___ for depression
 
Social History:
___
Family History:
positive for OP

 
Physical Exam:
Vitals: 98.6 PO 118 / 70 91 18 96 Ra 
Gen: AAOx3. well appearing, resting comfortably in bed
HEENT: EOMI, PERRLA, anicteric sclera, MMM, oropharynx clear
CV: RRR, no m/r/g
Lungs: Breathing comfortably on RA, CTAB no wheezing, rales, or 
ronchi
Abd: soft, appropriately tender, nondistended. no rebound or 
guarding. Incisions healing well, c/d/I, steris in place
Ext: WWP, no edema
 
Pertinent Results:
___ 06:05AM BLOOD WBC-12.0* RBC-4.05 Hgb-12.6 Hct-38.1 
MCV-94 MCH-31.1 MCHC-33.1 RDW-14.4 RDWSD-50.3* Plt ___
___ 06:05AM BLOOD Glucose-95 UreaN-9 Creat-0.7 Na-137 K-4.5 
Cl-99 HCO3-28 AnGap-10
___ 06:05AM BLOOD Calcium-8.7 Phos-2.9 Mg-1.8
 
Brief Hospital Course:
The patient presented to pre-op on ___ . Pt was evaluated by 
anaesthesia. The patient was taken to the operating room for 
scheduled Laparoscopic Revision of ___ Fundoplication/ Repair 
paraesophageal hernia with mesh Upper endoscopy. There were no 
adverse events in the operating room; please see the operative 
note for details. Pt was extubated, taken to the PACU until 
stable, then transferred to the ward for observation. 
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a IV morphine 
and IV Tylenol and then transitioned to oral morphine and 
Tylenol once tolerating a diet. Due to concurrent morphine 
intake, her home bedtime clonazepam was decreased from 4mg to 
1mg, which the patient tolerated well.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was initially kept NPO with a 
___ tube in place for decompression.  On POD 1 the NGT 
was removed , therefore, the diet was advanced sequentially to a 
Regular mechanical soft diet, which was well tolerated. 
Patient's intake and output were closely monitored
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none. Home eliquis was 
restarted on POD 1.
Prophylaxis: The patient received subcutaneous heparin prior to 
restarting home eliquis. She also received ___ dyne boots were 
used during this stay and was encouraged to get up and ambulate 
as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. ClonazePAM 4 mg PO QHS 
2. ClonazePAM 1 mg PO DAILY 
3. ClonazePAM 1 mg PO DAILY:PRN anxiety 
4. Polyethylene Glycol 17 g PO ASDIR 
5. Apixaban 2.5 mg PO BID 
6. estradiol 0.01 % (0.1 mg/gram) vaginal TWICE WEEKLY 
7. Omeprazole 40 mg PO DAILY 
8. Excedrin Migraine (aspirin-acetaminophen-caffeine) 250-250-65 
mg oral ASDIR 
9. Vitamin B Complex 1 CAP PO DAILY 
10. Ascorbic Acid ___ mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
3.  Morphine Sulfate ___ ___ mg PO Q4H:PRN Pain - Moderate 
Do not drink, drive, or operate heavy machinery. Do not take 
with clonazepam 
RX *morphine 15 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*24 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [Senokot] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Tablet Refills:*0 
5.  ClonazePAM 1 mg PO QHS 
Pls discuss your clonazepam dosage with your psychiatrist.  
6.  Apixaban 2.5 mg PO BID  
7.  Ascorbic Acid ___ mg PO DAILY  
8.  ClonazePAM 1 mg PO DAILY  
9.  ClonazePAM 1 mg PO DAILY:PRN anxiety  
10.  estradiol 0.01 % (0.1 mg/gram) vaginal TWICE WEEKLY  
11.  Excedrin Migraine (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral ASDIR  
12.  Omeprazole 40 mg PO DAILY  
13.  Polyethylene Glycol 17 g PO ASDIR  
14.  Vitamin B Complex 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
paraesophageal hernia
slipped ___ fundoplication

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You have undergone successful laparoscopic revision of ___ 
Fundoplication and repair of a paraesophageal hernia with mesh 
and you have recovered in the hospital and are now preparing for 
discharge with the following instructions:

You are being discharged with morphine and Tylenol for pain 
control. While you are on morphine please reduce your daily 
clonazepam dosage. While you were here you have been taking 
Clonazepam 1 mg daily and 1 mg at bedtime and have tolerated 
that well, so you can continue this dosage at discharge. Please 
discuss your clonazepam dosage with your psychiatrist or PCP as 
soon as possible. You may purchase Tylenol over the counter, 
please do not exceed more than 3000mg Tylenol per day.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving, drinking, or operating heavy machinery while 
taking pain medications, especially morphine and clonazepam.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___